

* INA128
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA128
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS051B - OCTOBER 1995 - REVISED FEBRUARY 2005
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* COMMENTS
* CONNECTIONS:            +
*                         |   -
*                         |   |   V+
*                         |   |   |   V-
*                         |   |   |   |   Out
*                         |   |   |   |   |   REF
*                         |   |   |   |   |   |   RG1
*                         |   |   |   |   |   |   |   RG2
*                         |   |   |   |   |   |   |   |
* PIN CONFIG FOR INA128   1   2   3   4   5   8   9  10
*****************************************************************************

.SUBCKT INA128B         1   2   3   4   5   8   9  10

X1                     15  17   3   4  11   A1_128E
X2                     15  16   3   4  12   A2_128E
X3                     14  13   3   4   5   A3_128E
*
R1    11  13   40.0000K
R2    13   5   39.996K
R3    12  14   40.0000K
R4    14   8   40.0000K
CIN   13  14   4.0000PF
*
R1FB   9  11   25.000K
CC1   17  11   5.0000PF
R2FB  10  12   25.000K
CC2   16  12   5.0000PF
CG1    9   0   10.0000PF
CG2   10   0   8.0000PF
*
RCE   17   9   20G
*
I1     3  16  DC  20.00E-6
I2     3  17  DC  20.00E-6
IB1CAN 3  42  DC  40.00E-9
IB2CAN 3  46  DC  40.00E-9
IBAL   0   4  DC  6.5E-6
*
D1    15  17      DX
D2    15  16      DX
*
Q1    16  42  10  QX
Q2    17  46   9  QX
*
V1     3  15  DC  1.700

* INPUT PROTECTION
  RIN1 1   41 1K
  I11  41  42 .7MA
  S11  41  42 1 41 SP
  DI1  43  41 DX
  I12  4   43 DC .8MA
  S12  4   43 1 41 SM

  RIN2 2   45 1K
  I21  45  46 .7MA
  S21  45  46 2 45 SP
  DI2  47  45 DX
  I22  4   47 DC .8MA 
  S22  4   47 2 45 SM

* Anti-inversion clamps *
  VSET1 3 40 DC 2.0
  QSET1 4 40 42 QY
  VSET2 3 44 DC 2.0
  QSET2 4 44 46 QY

.model sp vswitch(ron=10 roff=100E3 von=.7 voff=1) 
.model sm vswitch(ron=10 roff=100E3 von=-.7 voff=-1)
.MODEL DX D(IS=1.0E-24)
.MODEL QX NPN(IS=800.0E-18 BF=500)
.MODEL QY PNP(IS=800.0E-18 BF=500)
.ENDS INA128
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A1_128E  1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 10.00E-12
  css  10 99 1.000E-30
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 79.58E6 -80E6 80E6 80E6 -80E6
  ga    6  0 11 12 1.257E-3
  gcm   0  6 10 99 125.7E-12
  iss   3 10 dc 50.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 795.8
  rd2   4 12 795.8
  ro1   8  5 10
  ro2   7 99 10
  rss  10 99 4.000E6
  vb    9  0 dc 0
  vc    3 53 dc 1.5
  ve   54  4 dc .9
  vlim  7  8 dc 0
  vlp  91  0 dc 14
  vln   0 92 dc 14

* OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX
  VQ1  21  0 0
  VQ2  22  0 0 
  FQ1   3  0 POLY(1) VQ1 120u 1
  FQ2   0  4 POLY(1) VQ2 120u -1
  RP    3  4 3.00E6

.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=31.58E-3 Vto=-1)
.ends

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A2_128E  1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 10.00E-12
  css  10 99 1.000E-30
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 79.58E6 -80E6 80E6 80E6 -80E6
  ga    6  0 11 12 1.257E-3
  gcm   0  6 10 99 125.7E-12
  iss   3 10 dc 50.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 795.8
  rd2   4 12 795.8
  ro1   8  5 10
  ro2   7 99 10
  rss  10 99 4.000E6
  vb    9  0 dc 0
  vc    3 53 dc 1.5
  ve   54  4 dc .9
  vlim  7  8 dc 0
  vlp  91  0 dc 14
  vln   0 92 dc 14

* OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX
  VQ1  21  0 0
  VQ2  22  0 0 
  FQ1   3  0 POLY(1) VQ1 120u 1
  FQ2   0  4 POLY(1) VQ2 120u -1
  RP    3  4 3.00E6

.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=31.58E-3 Vto=-1)
.ends

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A3_128E  1 2 3 4 5
*
  c1   11 12 2.730E-12
  c2    6  7 15.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 163.2E6 -160E6 160E6 160E6 -160E6
  ga    6  0 11 12 122.5E-6
  gcm   0  6 10 99 12.25E-12
  iee  10  4 dc 63.95E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 8.162E3
  rc2   3 12 8.162E3
  re1  13 10 7.327E3
  re2  14 10 7.327E3
  ree  10 99 3.127E6
  ro1   8  5 300
  ro2   7 99 300
  vb    9  0 dc 0
  vc    3 53 dc 1.500
  ve   54  4 dc 1.400
  vlim  7  8 dc 0
  vlp  91  0 dc 5
  vln   0 92 dc 14

*OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX 
  VQ1  21  0 0
  VQ2  22  0 0 
  FQ1   3  0 POLY(1) VQ1 206.7E-6 1
  FQ2   0  4 POLY(1) VQ2 206.7E-6 -1
  RQ    3  4 1.87e6
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=318.8)
.ends
